US04900729
2-[2-(4,4-Dimethyl-2-oxazolin-2-yl)-ethyl]-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine
3 g (7.7 mmol) of 2-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]ethane-1-carboxylic acid, 0.69 g (7.7 mmol) of 2-amino-2-methylpropan-1-ol, 2,35 g (23 mmol) of triethylamine and 4.8 g of carbon tetrachloride are stirred in 15 ml of pyridine/acetonitrile (1:1) at ambient temperature. Within 2 hours a solution of 6.2 g (23.6 mmol) of triphenylphosphine in 15 ml of the above pyridine/acetonitrile mixture is added dropwise to the mixture.

reactant | 2-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]ethane-1-carboxylic acid | 7.7 mmol, 3 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CCC(=O)O)C(=NN2)C | C18H15ClN4O2S
reactant | 2-amino-2-methylpropan-1-ol | 7.7 mmol, 0.69 g | NC(CO)(C)C | C4H11NO
reactant | triethylamine | 23 mmol, 2,35 g | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 23.6 mmol, 6.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | pyridine acetonitrile | 15 ml | N1=CC=CC=C1.C(C)#N
solvent | pyridine acetonitrile | 15 ml | N1=CC=CC=C1.C(C)#N
solvent | carbon tetrachloride | 4.8 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[2-(4,4-Dimethyl-2-oxazolin-2-yl)-ethyl]-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | CC1(N=C(OC1)CCC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)Cl)C | C22H22ClN5OS
